US06927228B2
(c) 2-[4′-(2,4-Dioxothiazolidin-5-ylidene-methyl)biphenyl-3-yl]-N-methyl-N-phenylacetamide
In a manner similar to that of Example 1(f), by reacting 1 g (4 mmol) of 2-(4′-acetylbiphenyl-3-yl)-N-methyl-N-phenylacetamide with 460 mg (4 mmol) of 2,4-thiazolidine dione, 1.2 g (71%) of the expected product are obtained.

reactant | 2-(4′-acetylbiphenyl-3-yl)-N-methyl-N-phenylacetamide | 4 mmol, 1 g | C(C)(=O)C1=CC=C(C=C1)C1=CC(=CC=C1)CC(=O)N(C1=CC=CC=C1)C | C23H21NO2
reactant | 2,4-thiazolidine dione | 4 mmol, 460 mg | S1C(NC(C1)=O)=O | C3H3NO2S
product | 2-[4′-(2,4-Dioxothiazolidin-5-ylidene-methyl)biphenyl-3-yl]-N-methyl-N-phenylacetamide | 1.2 g, 71% | O=C1SC(C(N1)=O)=CC1=CC=C(C=C1)C1=CC(=CC=C1)CC(=O)N(C1=CC=CC=C1)C | C25H20N2O3S
